US07262196B2
2-(6-Chloropyridin-3-yl)-3-cyclopentyl-N-thiazol-2-ylpropionamide
A solution of 2-(6-chloropyridin-3-yl)-3-cyclopentylpropionic acid (Preparation 1, 0.56 g, 2.2 mmol), TBTU (1.41 g, 4.4 mmol), HOBt (0.45 g, 3.3 mmol), NEt3 (0.31 mL, 2.2 mmol), and thiazol-2-ylamine (0.44 g, 4.4 mmol) in anhydrous DMF (23 mL) was stirred at 20° C. for 16 h. The reaction mixture was diluted with EtOAc, before being washed with 2 M Na2CO3, H2O, and brine. After drying (Na2SO4), the organic phase was filtered and concentrated to give the title compound: RTA=3.82 min; m/z (ES+)=336.1 [M+H]+.

reactant | 2-(6-chloropyridin-3-yl)-3-cyclopentylpropionic acid | 2.2 mmol, 0.56 g | ClC1=CC=C(C=N1)C(C(=O)O)CC1CCCC1 | C13H16ClNO2
reactant | TBTU | 4.4 mmol, 1.41 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 3.3 mmol, 0.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NEt3 | 2.2 mmol, 0.31 mL | CCN(CC)CC | C6H15N
reactant | thiazol-2-ylamine | 4.4 mmol, 0.44 g | S1C(=NC=C1)N | C3H4N2S
solvent | DMF | 23 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(6-Chloropyridin-3-yl)-3-cyclopentyl-N-thiazol-2-ylpropionamide | ClC1=CC=C(C=N1)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C16H18ClN3OS
